US07829584B2
3-chloro-6-(2,2-difluoro-2-phenyl-ethylamino)-2-{2-[(aminoiminomethyl)aminooxy]ethyl}aminocarbonylmethyl-pyridine 1-oxide
A mixture of 3-chloro-6-(2,2-difluoro-2-phenyl-ethylamino)-2-phenoxycarbonylmethyl-pyridine 1-oxide (41.2 mg, 98.4 μmol), as prepared in Example 2d, N-[2-(amidinoaminooxy)ethylamine dihydrochloride (32.9 mg, 172 μmol), as prepared in the previous step, MeOH (0.50 mL), and DIPEA (66 μL, 379 μmol) were stirred at 70° C. for 40 min. The homogeneous dark amber solution yielded a heavy white precipitate. Application of this crude reaction mixture to a silica flash column (95:5 DCM/MeOH with saturated NH3 as eluent) yielded the title compound as an off-white solid (6.5 mg, 15%). 1H-NMR (300 MHz, CD3OD) δ 7.58-7.42 (m, 5H), 7.35 (d, 1H), 6.83 (d, 1H), 4.06 (t, J=13.7 Hz, 2H), 4.08 (s, 2H), 3.79 (t, 2H), 3.41 (t, 2H). LC/MS (ESI): calcd mass 442.1. found 443.3 (MH)+.

reactant | 3-chloro-6-(2,2-difluoro-2-phenyl-ethylamino)-2-phenoxycarbonylmethyl-pyridine 1-oxide | 98.4 μmol, 41.2 mg | ClC=1C(=[N+](C(=CC1)NCC(C1=CC=CC=C1)(F)F)[O-])CC(=O)OC1=CC=CC=C1 | C21H17ClF2N2O3
reactant | 2-(amidinoaminooxy)ethylamine dihydrochloride | 172 μmol, 32.9 mg | Cl.Cl.C(N)(=N)NOCCN
reactant | DIPEA | 379 μmol, 66 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH3 | N | H3N
solvent | DCM MeOH | C(Cl)Cl.CO
solvent | MeOH | 0.50 mL | CO | CH4O
product | 3-chloro-6-(2,2-difluoro-2-phenyl-ethylamino)-2-{2-[(aminoiminomethyl)aminooxy]ethyl}aminocarbonylmethyl-pyridine 1-oxide | 6.5 mg, 15% | ClC=1C(=[N+](C(=CC1)NCC(C1=CC=CC=C1)(F)F)[O-])CC(=O)NCCONC=NN | C18H21ClF2N6O3
